Name:  ___.               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Amiodarone
 
Attending: ___.
 
Chief Complaint:
Generalized weakness
 
Major Surgical or Invasive Procedure:
Hemodialysis

 
History of Present Illness:
Overall patient is an ___ yo man with h/o  ESRD on HD, Afib on 
coumadin, HTN, CHF with EF 48% p/w generalized weakness. Patient 
reports 3 days of generalized fatigue and weakness on morning of 
admission esp in LEs with inability to get out of bed to walk 
short distence. Some concern for left sided weakness initially, 
although patient now states that at baseline uses LUE less due 
to old injury and LLE w/ heel ulcer, thus less concern for left 
sided weakness. Patient recently admitted with UTI for which 
completed course of ceftaz on ___ and he continues to get 
neomycin bladder flush and dwell q2 days. Denies any change in 
quality of urine. Patient denies chest pain, palpiations, 
orthostasis, cough, fever, chills, abdominal pain, nausea, 
vomiting, diarrhea, shortness of breath, orhopnea, PND, leg 
swelling, parestesias, dysathria, dysphagia. 

Overnight noted to have peaked TW on EKG w/ elevated K. He was 
given one dose of kayelxelate and transfered to HD this morning 
as he missed HD session on ___. 

At the time of my exam, patient states feeling back to baseline 
and is eager to go home. Has no complaints.
 
Past Medical History:
T2DM - now resolved s/p weight loss, A1c<5% in ___, not on 
treatment
ESRD- most likely multifactorial from hypertensive and 
obstructive nephropathy. On dialysis since ___.  
Atrial fibrillation- Pt is anticoagulated on coumadin.  
Hypertension  
CHF outpatient TTE ___ with LVEF ___ and subsequent 
recovery with EF 48% on office study ___.  
Obesity  
Gout  
PVD  
Anemia of chronic disease- Secondary to renal dysfunction.  
Sleep apnea  
Autonomic dysfunction, remitted (no longer on midodrine and 
fludrocort); persistent volume-sensitive BP regulation  

 
Social History:
___
Family History:
His grandparents and father have hypertension and diabetes.  
 
Physical Exam:
ADMISSION EXAM

Vitals: 97.4, 125/78, 72, 20, 96% RA  
General: elderly male, NAD, AAOx3  
HEENT: MM dry, EOMI,  
Neck: no JVD  
Lungs: CTAB  
CV: RRR no m/r/g  
Abdomen: soft, NT, ND NABS  
Ext: 2+ pulses, no edema  
Skin: no rashes; pressure ulcer under left heel with fibrinous 
exudate, not infected-appearing  
Neuro: CN2-12 intact. stength ___ in UE bilaterally except for 
4+/5 with left triceps and 4+/5 with right biceps. biceps 
appears to be limited by pain from IV in wrist. unable to make 
strong grip, worse on left, due to bilateral baseline extension 
of fingers which patient says is chronic. ___ strength ___ bilat. 
LTSI.

DISCHARGE EXAM

Vitals: 97.0 139/88 87 20 97% RA 97.4kg  
General: AAOx3, sitting in bed eating in NAD  
HEENT: MMM, EOMI  
Neck: no JVD  
Lungs: CTABL  
CV: irreg irreg, no mrg  
Abdomen: soft, NT, ND NABS  
Ext: no edema  
Skin: left heel ulcer not examined  
Neuro: CN2-12 intact. strength 4+ to ___ bil upper and lower 
extremities. sensation to soft touch grossly intact.
 
Pertinent Results:
ADMISSION LABS
___ 02:15PM BLOOD WBC-7.8 RBC-3.60* Hgb-10.8* Hct-34.8*# 
MCV-97 MCH-29.9 MCHC-31.0 RDW-16.7* Plt ___
___ 02:15PM BLOOD ___ PTT-42.5* ___
___ 02:15PM BLOOD Glucose-107* UreaN-70* Creat-7.1*# Na-138 
K-5.7* Cl-101 HCO3-19* AnGap-24*
___ 02:15PM BLOOD ALT-11 AST-21 CK(CPK)-37* AlkPhos-215* 
TotBili-0.3
___ 02:15PM BLOOD Lipase-132*
___ 02:15PM BLOOD CK-MB-2 cTropnT-0.07*
___ 02:15PM BLOOD Albumin-3.9 Calcium-8.3* Phos-3.8 Mg-2.3

INTERVAL LABS
___ 07:00AM BLOOD TSH-6.0*
___ 07:25AM BLOOD T4-6.1 Free T4-1.3

DISCHARGE LABS
___ 07:25AM BLOOD WBC-6.4 RBC-3.51* Hgb-10.4* Hct-33.2* 
MCV-95 MCH-29.7 MCHC-31.4 RDW-16.9* Plt ___
___ 07:25AM BLOOD ___ PTT-42.2* ___
___ 07:25AM BLOOD Glucose-89 UreaN-39* Creat-5.6*# Na-139 
K-4.3 Cl-101 HCO3-27 AnGap-15

IMGAING
CXR ___
IMPRESSION: 
1. Moderate size right pleural effusion, similar compared to the 
prior exam,
with trace left pleural effusion.
2. Bibasilar airspace opacities could reflect compressive 
atelectasis but
infection is not excluded.
3. Interval improvement in mild pulmonary edema.
 
Brief Hospital Course:
___ yo M with PMH ESRD on HD, afib on coumadin, HTN, CHF with EF 
48% p/w generalized weakness.

ACTIVE ISSUES
# Weakness
Unclear etiology at presentation. One possibility included a UTI 
so initially started on antibioitics, however U/A was not 
convincing and no leukocytosis so antibiotics were discontinued. 
 No cardiac symptoms suggesting ACS or focal symptoms to suggest 
infection.  No neuro findings to suggest CVA or neuropathic.  He 
had signs of volume depletion so he was given IVF with some 
improvement in weakness.  Also the possibility that neomycin 
bladder dwells could have been causing the weakness so the 
volume of neomycin was decreased.  At discharge patient felt 
back to his baseline strength and was safe for discharge.
  
# Hyperkalemia 
Patient presented with K of 7.1 and EKG showed peaked T waves.  
He was given one dose of kayexelate and had two rounds of HD.  
On discharge his K normalized and his EKG was at baseline.

# ESRD: 
On HD ___, Th, Sa. Missed Th HD so got HD ___ and had a repeat 
HD on ___ for ___ schedule.  Continued cinacalcet, nephrocaps, 
and sevelemer.    

CHRONIC ISSUES
# Anemia 
This is a chronic, but at presentation he is above baseline and 
most likely hemoconcentrated. There was no concern for active 
bleeding at this time.  His hematocrit was stable throughout the 
hospitalization.
 
# Atrial fibrillation 
Continued his home dose of coumadin and metoprolol XL.  No 
issues during hospitalization and he was discharged 
hemodynamically stable.  

# Hypertension
Continued home dose of metoprolol.

# CHF  
Continued lasix and metoprolol per home regimen. 
 
# Gout
Continue home dose allopurinol. 
 
# Hypothyroidism: 
Contine home dose Levothyroxine.  

TRANSITIONAL ISSUES
- Please follow-up at your regularly scheduled Dialysis center
- Please follow-up Free T4 and T4 
- Follow up blood cultures, urine culture.
- Please follow-up with your primary care physician, ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Cinacalcet 30 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Paricalcitol 6 mcg IV QHD 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Sucralfate 1 gm PO TID 
13. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
14. Allopurinol ___ mg PO DAILY 
15. Warfarin 2 mg PO EVERY OTHER DAY 
16. Warfarin 3 mg PO EVERY OTHER DAY 
17. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
18. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q48H 
Each 1000mL bottle contains 1mL of Neosporin GU Irrigant. please 
leave 25 cc of neosporin in bladder dwell between flushes 

 
Discharge Medications:
1. Acetaminophen 325 mg PO Q6H:PRN pain 
2. Cinacalcet 30 mg PO BID 
3. Docusate Sodium 100 mg PO BID 
4. Finasteride 5 mg PO DAILY 
5. Furosemide 80 mg PO 4X/WEEK (___) 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 150 mg PO DAILY 
8. Nephrocaps 1 CAP PO DAILY 
9. Pantoprazole 40 mg PO Q12H 
10. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
11. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
12. Sucralfate 1 gm PO TID 
13. Warfarin 2 mg PO EVERY OTHER DAY 
14. Warfarin 3 mg PO EVERY OTHER DAY 
15. Zolpidem Tartrate 5 mg PO HS:PRN insomnia 
16. Paricalcitol 6 mcg IV QHD 
17. Allopurinol ___ mg PO DAILY 
18. Neomycin-Polymyxin B GU 1 mL / 1000 ml SW ___ Q48H 
 please leave 10 cc of neosporin in bladder dwell between 
flushes   
19. Collagenase Ointment 1 Appl TP DAILY 
RX *collagenase clostridium hist. [Santyl] 250 unit/gram As 
directed once a day Disp #*1 Each Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Generalized weakness
Volume depletion
Hypothyroidism
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___,
It was a pleasure taking care of you at the ___ 
___ ___.  You were admitted to the hospital 
because of generalized weakness. It is possible that this was 
caused in part by dehydration. You were given some fluids IV and 
you improved. You missed a dialysis session on ___ so had 
dialysis on ___ in the hospital.  Following the dialysis you 
were feeling back to baseline.  You had another dialysis session 
on ___ and were discharged home.  Please weigh yourself every 
morning, call MD if weight goes up more than 3 lbs.
You were also found to have mildly low thyroid levels. We are 
going to check some additional test and your PCP, ___ 
let you know whether any changes to your thyroid medications are 
necessary.
 
Followup Instructions:
___